US07276511B2
Synthesis of phenyl[1-(3,3,3-trifluoro-N-methylpropanamido)-2-(S)-(3,4-dichlorophenyl)-5-hydroxy-pentan-2-yl]methylcarbamate
Under argon, phenyl[1-(3,3,3-trifluoro-N-methylpropanamido)-2-(S)-(3,4-dichlorophenyl)-4-penten-2-yl]methylcarbamate (410 mg) was dissolved in anhydrous tetrahydrofuran (4 mL). Under cooling with ice, a 1.06M solution (0.80 mL) of borane tetrahydrofuran complex in tetrahydrofuran was added thereto, and the mixture was stirred for 1 hour. Water (0.3 mL), 3N aqueous sodium hydroxide (0.9 mL), and 30% aqueous hydrogen peroxide (0.9 mL) were added to the reaction mixture, and the resultant mixture was stirred for 1 hour at room temperature. The reaction mixture was extracted with ethyl acetate, sequentially washed with water and saturated brine, and dried over sodium sulfate anhydrate. The solvent was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (n-hexane:ethyl acetate=1:2), to thereby give the title compound (311 mg, 70.0%).

reactant | phenyl[1-(3,3,3-trifluoro-N-methylpropanamido)-2-(S)-(3,4-dichlorophenyl)-4-penten-2-yl]methylcarbamate | 410 mg | C1(=CC=CC=C1)OC(N(C)[C@@](CN(C(CC(F)(F)F)=O)C)(CC=C)C1=CC(=C(C=C1)Cl)Cl)=O | C23H23Cl2F3N2O3
reactant | Water | 0.3 mL | O | H2O
reactant | sodium hydroxide | 3N, 0.9 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 0.9 mL | OO | H2O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | phenyl[1-(3,3,3-trifluoro-N-methylpropanamido)-2-(S)-(3,4-dichlorophenyl)-5-hydroxy-pentan-2-yl]methylcarbamate | 311 mg, 70.0% | C1(=CC=CC=C1)OC(N(C)[C@@](CN(C(CC(F)(F)F)=O)C)(CCCO)C1=CC(=C(C=C1)Cl)Cl)=O | C23H25Cl2F3N2O4
